US06833456B2
To a solution of DMF was added 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid (0.1 g, 0.26 mmol), as prepared in step (iv), 2-Methylamino-ethanol (0.025 mL, 0.35 mmol) as well as HATU (0.12 g, 0.32) and DIEA (0.051 mL, 0.32 mmol) then stirred for 3 h. To the solution was added 30 mL of EtOAc portioned between 50/50 NaHCO3 (2×30 mL) and the organic layer dried over Na2SO4 then concentrated via rotor evaporator. The title compound was purified with flash chromatography eluting with EtOAc/CH2Cl2/MeOH (2:1:0.1) and the purified fraction concentrate to afford 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid (2-hydroxy-ethyl)-methyl-amide as an off-white solid (0.041 g, 36%). HPLC: Rt 3.35 min. (96% area). 1H NMR (DMSO-d3, 400 MHz) δ: 8.46 (1H, d, J=4.3 Hz), 8.22 (1H, bs), 7.90-7.81 (1H, m), 7.61 (1H, d, J=8.6 Hz), 7.34 (1H, s), 7.01 (1H, dd, J=8.6, 2.3 Hz), 6.57 (1H, d, J=5.5 Hz), 6.33 (1H, s), 3.56 (5H, m), 2.96 (2H, bs), 2.81 (3H, d, J=5.5 Hz), 2.43 (3H, s). LCMS (ACPI) M+H+ m/z: 439.1. Anal. (C22H22N4O4S.1.0 H2O.0.3 EtOAc) Calc'd: C, 57.60; H, 5.07; N, 11.63. Found: C, 57.87; H, 4.93; N, 11.25.

reactant | 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid | 0.26 mmol, 0.1 g | CC=1N(C2=CC=C(C=C2C1)OC1=C2C(=NC=C1)C=C(S2)C(=O)O)C(NC)=O | C19H15N3O4S
reactant | 2-Methylamino-ethanol | 0.35 mmol, 0.025 mL | CNCCO | C3H9NO
reactant | HATU | 0.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.32 mmol, 0.051 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid (2-hydroxy-ethyl)-methyl-amide | 0.041 g, 36% | OCCN(C(=O)C1=CC2=NC=CC(=C2S1)OC=1C=C2C=C(N(C2=CC1)C(NC)=O)C)C | C22H22N4O4S
